US07989637B2
Isobutyramide (6.02 g, 69 mmol) and DMFDMA (9.22 mL) were added to 10 mL of DMA in a first flask, and the mixture was heated to 80° C. with stirring for one hour. In a second flask, a suspension of 3-hydrazino-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester (6.42 g, 23 mmol) was suspended in acetic acid and heated t 80° C. The contents of the first flask were slowly added to the second flask, and the combined mixture was stirred at 80° C. for two hours. The reaction mixture was cooled and concentrated under reduced pressure. The residue was diluted with EtOAc, washed with saturated aqueous NaHCO3 and water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified via flash chromatography (hexanes/EtOAc 4:—2:1) to give 2.06 g of 3-(5-isopropyl-[1,2,4]triazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester as a clear oil, MS (M+H)=337.

reactant | Isobutyramide | 69 mmol, 6.02 g | C(C(C)C)(=O)N | C4H9NO
reactant | DMFDMA | 9.22 mL | CN(C)C(OC)OC | C5H13NO2
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
reactant | 3-hydrazino-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 23 mmol, 6.42 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)NN)=O | C14H15N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(5-isopropyl-[1,2,4]triazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 2.06 g | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)N1N=CN=C1C(C)C)=O | C19H20N4O2
